US05990156
c) (2R,3R,4S)-3-Acetylamino-4-[2,3-bis(tert-butoxycarbonyl)guanidino]-3,4-dihydro-2H-pyran-2,6-dicarboxylic acid 6-benzhydryl ester 2-(2,3,4,5,6-pentafluorophenyl)ester
To a solution of (2R,3R,4S)-3-Acetylamino-4-[2,3-bis(tert-butoxycarbonyl)-guanidino]-3,4-dihydro-2H-pyran-2,6-dicarboxylic acid 6-benzhydryl ester (4.4 g) in dry dimethylformamide (10 ml) and pyridine (0.70 ml) was added pentafluorophenyl trifuoroacetate (1.27 ml) and the reaction was stirred at 23° C. for 1 hour. More pyridine (0.70 ml) and pentafluorophenyl trifluoroacetate (1.27 ml) was added and the reaction was stirred for a further 2 hours. The reaction mixture was diluted using ethyl acetate and washed consecutively using 1N hydrochloric acid, saturated sodium bicarbonate solution and brine. The organic phase was dired over anhydrous magnesium sulphate and the solvent was removed in vacuo to give the crude title compound as a tan foam, (8.11 g); 1H NMR (250MHz, D6 -DMSO) 9.97 (1H, broad s), 7.49--7.27 (11H, m), 6.91 (1H, s), 6.52 (1H, m), 4.93 (1H, m), 4.58 (1H, m), 4.47 (1H, m), 1.88 (3H,s), 1.42 (18H, s).

reactant | (2R,3R,4S)-3-Acetylamino-4-[2,3-bis(tert-butoxycarbonyl)-guanidino]-3,4-dihydro-2H-pyran-2,6-dicarboxylic acid 6-benzhydryl ester | 4.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C[C@@H]([C@H]([C@@H](O1)C(=O)O)NC(C)=O)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C33H40N4O10
reactant | pentafluorophenyl trifluoroacetate | 1.27 ml | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 0.70 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.70 ml | N1=CC=CC=C1 | C5H5N
product | (2R,3R,4S)-3-Acetylamino-4-[2,3-bis(tert-butoxycarbonyl)guanidino]-3,4-dihydro-2H-pyran-2,6-dicarboxylic acid 6-benzhydryl ester 2-(2,3,4,5,6-pentafluorophenyl)ester | 8.11 g | FC1=C(C(=C(C(=C1F)F)F)F)OC(=O)[C@@H]1OC(=C[C@@H]([C@H]1NC(C)=O)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C39H39F5N4O10
